US06008418
A process for preparing 1,6-hexanediol from an aqueous carboxylic acid mixture comprising adipic acid, 6-hydroxy-caproic acid and small amounts of 1,4-cyclohexanediols, which aqueous carboxylic acid mixture is obtained as a by-product in the oxidation of cyclohexane to cyclohexanone/cyclohexanol using oxygen or oxygen-containing gases followed by water extraction, which process comprises esterifying the aqueous carboxylic acid mixture followed by catalytic hydrogenation,

reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
reactant | 6-hydroxy-caproic acid | OCCCCCC(=O)O | C6H12O3
solvent | cyclohexane | C1CCCCC1 | C6H12
product | cyclohexanone cyclohexanol | C1(CCCCC1)=O.C1(CCCCC1)O | InChI=1S/C6H12O.C6H10O/c2*7-6-4-2-1-3-5-6/h6-7H,1-5H2;1-5H2
